* Extracted by KLayout with SG13G2 LVS runset on : 21/03/2026 09:41

.SUBCKT PFD 1 7 9 13 14 15 28 30 31 32
M$1 4 14 11 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.1428p AD=0.0609p PS=1.52u
+ PD=0.71u
M$2 11 15 1 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.0609p AD=0.1626p PS=0.71u
+ PD=1.415u
M$3 1 18 2 1 sg13_lv_nmos L=0.13u W=0.74u AS=0.1626p AD=0.2516p PS=1.415u
+ PD=2.16u
M$4 6 19 1 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.1428p AD=0.0798p PS=1.52u PD=0.8u
M$5 1 15 12 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.0798p AD=0.0378p PS=0.8u PD=0.6u
M$6 12 16 19 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.0378p AD=0.1428p PS=0.6u
+ PD=1.52u
M$7 1 16 8 1 sg13_lv_nmos L=0.13u W=0.64u AS=0.1331p AD=0.2176p PS=1.12u
+ PD=1.96u
M$8 1 16 7 1 sg13_lv_nmos L=0.13u W=1.48u AS=0.3922p AD=0.2737p PS=3.28u
+ PD=2.24u
M$10 1 8 9 1 sg13_lv_nmos L=0.13u W=1.48u AS=0.3922p AD=0.3922p PS=3.28u
+ PD=3.28u
M$12 1 15 17 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.1701p AD=0.03885p PS=1.65u
+ PD=0.605u
M$13 17 2 5 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.03885p AD=0.1596p PS=0.605u
+ PD=1.6u
M$14 4 3 18 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.1296p AD=0.081p PS=1.52u
+ PD=0.81u
M$15 18 20 5 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.081p AD=0.2163p PS=0.81u
+ PD=1.87u
M$16 1 3 20 1 sg13_lv_nmos L=0.13u W=0.74u AS=0.43315p AD=0.2516p PS=2.205u
+ PD=2.16u
M$17 1 13 3 1 sg13_lv_nmos L=0.13u W=0.74u AS=0.43315p AD=0.2516p PS=2.205u
+ PD=2.16u
M$18 16 3 6 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.12665p AD=0.1428p PS=1.145u
+ PD=1.52u
M$19 2 20 16 1 sg13_lv_nmos L=0.13u W=0.74u AS=0.3473p AD=0.12665p PS=2.71u
+ PD=1.145u
M$20 10 9 1 1 sg13_lv_nmos L=0.13u W=1.44u AS=0.4068p AD=0.2772p PS=3.29u
+ PD=2.21u
M$22 10 30 15 1 sg13_lv_nmos L=0.13u W=1.44u AS=0.2772p AD=0.3816p PS=2.21u
+ PD=3.22u
M$24 25 14 34 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.1428p AD=0.0609p PS=1.52u
+ PD=0.71u
M$25 34 15 1 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.0609p AD=0.1626p PS=0.71u
+ PD=1.415u
M$26 1 37 23 1 sg13_lv_nmos L=0.13u W=0.74u AS=0.1626p AD=0.2516p PS=1.415u
+ PD=2.16u
M$27 27 38 1 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.1428p AD=0.0798p PS=1.52u
+ PD=0.8u
M$28 1 15 36 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.0798p AD=0.0378p PS=0.8u
+ PD=0.6u
M$29 36 33 38 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.0378p AD=0.1428p PS=0.6u
+ PD=1.52u
M$30 1 33 29 1 sg13_lv_nmos L=0.13u W=0.64u AS=0.1331p AD=0.2176p PS=1.12u
+ PD=1.96u
M$31 1 33 28 1 sg13_lv_nmos L=0.13u W=1.48u AS=0.3922p AD=0.2737p PS=3.28u
+ PD=2.24u
M$33 1 29 30 1 sg13_lv_nmos L=0.13u W=1.48u AS=0.3922p AD=0.3922p PS=3.28u
+ PD=3.28u
M$35 1 15 35 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.1701p AD=0.03885p PS=1.65u
+ PD=0.605u
M$36 35 23 26 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.03885p AD=0.1596p PS=0.605u
+ PD=1.6u
M$37 25 24 37 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.1296p AD=0.081p PS=1.52u
+ PD=0.81u
M$38 37 39 26 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.081p AD=0.2163p PS=0.81u
+ PD=1.87u
M$39 1 24 39 1 sg13_lv_nmos L=0.13u W=0.74u AS=0.43315p AD=0.2516p PS=2.205u
+ PD=2.16u
M$40 1 32 24 1 sg13_lv_nmos L=0.13u W=0.74u AS=0.43315p AD=0.2516p PS=2.205u
+ PD=2.16u
M$41 33 24 27 1 sg13_lv_nmos L=0.13u W=0.42u AS=0.12665p AD=0.1428p PS=1.145u
+ PD=1.52u
M$42 23 39 33 1 sg13_lv_nmos L=0.13u W=0.74u AS=0.3473p AD=0.12665p PS=2.71u
+ PD=1.145u
M$43 1 30 31 1 sg13_lv_nmos L=0.13u W=1.48u AS=0.3922p AD=0.3922p PS=3.28u
+ PD=3.28u
M$45 16 20 22 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.19115p AD=0.0525p PS=1.565u
+ PD=0.67u
M$46 22 19 14 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.0525p AD=0.25605p PS=0.67u
+ PD=1.935u
M$47 14 15 19 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.25605p AD=0.0798p PS=1.935u
+ PD=0.8u
M$48 14 16 19 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.2014p AD=0.0798p PS=1.53u
+ PD=0.8u
M$49 14 16 8 14 sg13_lv_pmos L=0.13u W=1u AS=0.2083p AD=0.34p PS=1.5u PD=2.68u
M$50 14 16 7 14 sg13_lv_pmos L=0.13u W=2.24u AS=0.4142p AD=0.4211p PS=3.03u
+ PD=3u
M$52 2 3 16 14 sg13_lv_pmos L=0.13u W=1u AS=0.34p AD=0.19115p PS=2.68u PD=1.565u
M$53 14 14 4 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.1428p AD=0.0798p PS=1.52u
+ PD=0.8u
M$54 14 15 4 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.3623875p AD=0.0798p PS=2.605u
+ PD=0.8u
M$55 14 18 2 14 sg13_lv_pmos L=0.13u W=1u AS=0.3623875p AD=0.34p PS=2.605u
+ PD=2.68u
M$56 18 15 14 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.147p AD=0.1563p PS=1.54u
+ PD=1.22u
M$57 14 2 21 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.1563p AD=0.0546p PS=1.22u
+ PD=0.68u
M$58 21 3 18 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.0546p AD=0.0798p PS=0.68u
+ PD=0.8u
M$59 18 20 4 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.0798p AD=0.1428p PS=0.8u
+ PD=1.52u
M$60 20 3 14 14 sg13_lv_pmos L=0.13u W=1.12u AS=0.3864p AD=0.431025p PS=2.93u
+ PD=2.145u
M$61 14 13 3 14 sg13_lv_pmos L=0.13u W=1.12u AS=0.431025p AD=0.3808p PS=2.145u
+ PD=2.92u
M$62 14 8 9 14 sg13_lv_pmos L=0.13u W=2.24u AS=0.5964p AD=0.5964p PS=4.425u
+ PD=4.425u
M$64 14 9 15 14 sg13_lv_pmos L=0.13u W=2.24u AS=0.616p AD=0.4312p PS=4.46u
+ PD=3.01u
M$66 14 30 15 14 sg13_lv_pmos L=0.13u W=2.24u AS=0.4312p AD=0.6048p PS=3.01u
+ PD=4.44u
M$68 33 39 41 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.19115p AD=0.0525p PS=1.565u
+ PD=0.67u
M$69 41 38 14 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.0525p AD=0.25605p PS=0.67u
+ PD=1.935u
M$70 14 15 38 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.25605p AD=0.0798p PS=1.935u
+ PD=0.8u
M$71 14 33 38 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.2014p AD=0.0798p PS=1.53u
+ PD=0.8u
M$72 14 33 29 14 sg13_lv_pmos L=0.13u W=1u AS=0.2083p AD=0.34p PS=1.5u PD=2.68u
M$73 14 33 28 14 sg13_lv_pmos L=0.13u W=2.24u AS=0.4142p AD=0.4211p PS=3.03u
+ PD=3u
M$75 23 24 33 14 sg13_lv_pmos L=0.13u W=1u AS=0.34p AD=0.19115p PS=2.68u
+ PD=1.565u
M$76 14 14 25 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.1428p AD=0.0798p PS=1.52u
+ PD=0.8u
M$77 14 15 25 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.3623875p AD=0.0798p
+ PS=2.605u PD=0.8u
M$78 14 37 23 14 sg13_lv_pmos L=0.13u W=1u AS=0.3623875p AD=0.34p PS=2.605u
+ PD=2.68u
M$79 37 15 14 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.147p AD=0.1563p PS=1.54u
+ PD=1.22u
M$80 14 23 40 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.1563p AD=0.0546p PS=1.22u
+ PD=0.68u
M$81 40 24 37 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.0546p AD=0.0798p PS=0.68u
+ PD=0.8u
M$82 37 39 25 14 sg13_lv_pmos L=0.13u W=0.42u AS=0.0798p AD=0.1428p PS=0.8u
+ PD=1.52u
M$83 39 24 14 14 sg13_lv_pmos L=0.13u W=1.12u AS=0.3864p AD=0.431025p PS=2.93u
+ PD=2.145u
M$84 14 32 24 14 sg13_lv_pmos L=0.13u W=1.12u AS=0.431025p AD=0.3808p PS=2.145u
+ PD=2.92u
M$85 14 29 30 14 sg13_lv_pmos L=0.13u W=2.24u AS=0.5964p AD=0.5964p PS=4.425u
+ PD=4.425u
M$87 14 30 31 14 sg13_lv_pmos L=0.13u W=2.24u AS=0.5936p AD=0.5992p PS=4.42u
+ PD=4.43u
.ENDS PFD
